US07098219B2
i-Propyl 1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-amino-3′,3′-dimethyl-piperidin-1-yl)-4-oxo-quinoline-3-carboxylate
In a dry dimethylformaide (15 ml) was taken a mixture of 1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-t-butoxycarbonylamino-3′,3′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid (1 g, 1.98 mmole), K2CO3 (0.275 g, 1.98 mmole) was stirred at 70° C. for 7 hr. Added 1-iodopropane (0.5 g, 2.98 mmole) to reaction mixture and stirred at the same temperature for 16 hr. Solvent was concentrated up to dryness and (15 ml) water was added to it and extracted with chloroform (25 ml×2). Organic layer was separated, dried, concentrated, Which was hydrolysied with trifluoroacetic acid in methylene dichloride and purified on silica column to furnish titled product. Yield 45%, m.p 140–42° C., C24H32FN3O4, m/z 446 (M+1).

reactant | 1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-t-butoxycarbonylamino-3′,3′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | 1.98 mmole, 1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(C(CC1)NC(=O)OC(C)(C)C)(C)C)F)=O)C(=O)O | C26H34FN3O6
reactant | K2CO3 | 1.98 mmole, 0.275 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodopropane | 2.98 mmole, 0.5 g | ICCC | C3H7I
product | i-Propyl 1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-amino-3′,3′-dimethyl-piperidin-1-yl)-4-oxo-quinoline-3-carboxylate | Yield 45% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(C(CC1)N)(C)C)F)=O)C(=O)OC(C)C | C24H32FN3O4
